US05168103
A solution of (3-aminopropyl)carbamic acid phenylmethyl ester (7.08 g, 34 mmol) and N,N-diisopropylethylamine (4.5 mL, 26 mmol) in anhydrous dimethylformamide (100 mL) under nitrogen was cooled to 10° C. and treated with t-butyl bromoacetate (2.80 mL, 17 mmol) over 5 minutes. After one hour the bath was removed and the reaction mixture was stirred overnight, poured into water (500 mL), and made basic (pH 12) with 2.5N sodium hydroxide solution. The aqueous layer was extracted with dichloromethane (2×250 mL), which was dried over sodium sulfate and concentrated in vacuo with heat to remove dimethylformamide. The residue was purified by flash chromatography (9 cm diameter, gradient elution with 2.5-3.5% methanol in dichloromethane) to yield [3-[[(1,1-dimethylethyloxycarbonyl)-methyl]amino]propyl]carbamic acid phenylmethyl ester as a pale yellow oil (4.50 g 82%); 1H NMR (CDCl3 200 MHz): δ 7.35 (m, 5H), 5.43 (br s, NH), 5.09 (s, 2H), 3.35-3.24 (m, 4H), 2.68 (t, J=6.5 Hz, 2H), 1.68 (p, J=6.5 Hz, 2H), 1.46 (s, 9H).

reactant | (3-aminopropyl)carbamic acid phenylmethyl ester | 34 mmol, 7.08 g | C1(=CC=CC=C1)COC(NCCCN)=O | C11H16N2O2
reactant | N,N-diisopropylethylamine | 26 mmol, 4.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | t-butyl bromoacetate | 17 mmol, 2.80 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | [3-[[(1,1-dimethylethyloxycarbonyl)-methyl]amino]propyl]carbamic acid phenylmethyl ester | C1(=CC=CC=C1)COC(NCCCNCC(=O)OC(C)(C)C)=O | C17H26N2O4
